US04031221
12.1 ml. of ethylchloroformate are added to a solution of 19.4 g of 1-benzyl-4-(p-chlorophenoxy)piperidine in 220 ml. of benzene and the solution is refluxed for 18 hours. The benzene and benzylchloride is removed under reduced pressure to give the N-ethoxycarbonylpiperidine as an uncrystallizable yellow oil. The N-ethoxycarbonylpiperidine is dissolved in 210 ml. of ethanol and 130 ml. of 45% aqueous potassium hydroxide are added. The solution is refluxed for 12 hours under nitrogen, cooled, most of the ethanol is removed under reduced pressure and the resultant oily dispersion is extracted with ether. The ether phase is extracted with 3 N hydrochloric acid, the acid extract is basified with 6N sodium hydroxide, and the basic solution is extracted with benzene. The benzene is dried and removed under reduced pressure to give a colorless oil. The oil is dissolved in 200 ml. of ether, the solution is cooled and stirred and 200 ml. of a saturated ethereal-HCl solution is slowly added. The salt forms and is collected. The salt is recrystallized from absolute ethanol to give 4-(p-chlorophenoxy)piperidine hydrochloride.

reactant | ethylchloroformate | C(C)OC(=O)Cl | C3H5ClO2
reactant | 1-benzyl-4-(p-chlorophenoxy)piperidine | 19.4 g | C(C1=CC=CC=C1)N1CCC(CC1)OC1=CC=C(C=C1)Cl | C18H20ClNO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-ethoxycarbonylpiperidine | C(C)OC(=O)N1CCCCC1 | C8H15NO2
